US06310061B2
(i) Methyl 4-{N-[1-(S)-(3-methoxyethoxylphenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-ethyl]-N-methylamino}benzoate
This was prepared from the mixture of 2-(R)-(3-methoxymethoxyphenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)ethanol and 1-(S)-(3-methoxymethoxyphenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)ethanol and methyl 4-methylaminobenzoate in 60% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(R)-(3-methoxymethoxyphenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)ethanol | COCOC=1C=C(C=CC1)[C@H](CO)N1C[C@H](CC1)OCOC | C16H25NO5
reactant | 1-(S)-(3-methoxymethoxyphenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)ethanol | COCOC=1C=C(C=CC1)[C@@H](CN1C[C@H](CC1)OCOC)O | C16H25NO5
reactant | methyl 4-methylaminobenzoate | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
product | Methyl 4-{N-[1-(S)-(3-methoxyethoxylphenyl)-2-(3-(S)-methoxymethoxypyrrolidin-1-yl)-ethyl]-N-methylamino}benzoate | 60% yield | COCCOC=1C=C(C=CC1)[C@@H](CN1C[C@H](CC1)OCOC)N(C)C1=CC=C(C(=O)OC)C=C1 | C26H36N2O6
